US08455646B2
Preparation of (R)-1-(2-oxo-2-phenylethyl)-3-((R)-3-phenyl-2-(phenylamino)propanoyloxy)-1-azoniabicyclo[2.2.2]octane bromide (Diastereoisomer 1 of C153)
To a solution of (R)—((R)-quinuclidin-3-yl) 3-phenyl-2-(phenylamino)propanoate (Diastereoisomer 1 of C22) (50.0 mg, 0.14 mmol), is added 2-bromo-1-phenylethanone (28.4 mg, 0.14 mmol) and the mixture reacted in a closed vessel under MW irradiation for 1 hour at 100° C. (LC-MS monitoring: complete conversion). Solvent is removed under reduced pressure and residue is triturated with EtOAc to obtain the title compound as a white solid (75.5 mg, 98% yield, bromide salt, single diastereoisomer).

reactant | (R)—((R)-quinuclidin-3-yl) 3-phenyl-2-(phenylamino)propanoate | 0.14 mmol, 50.0 mg | C1(=CC=CC=C1)C[C@H](C(=O)O[C@H]1CN2CCC1CC2)NC2=CC=CC=C2 | C22H26N2O2
reactant | 2-bromo-1-phenylethanone | 0.14 mmol, 28.4 mg | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
product | (R)-1-(2-oxo-2-phenylethyl)-3-((R)-3-phenyl-2-(phenylamino)propanoyloxy)-1-azoniabicyclo[2.2.2]octane bromide | 75.5 mg, 98% yield | [Br-].O=C(C[N+]12C[C@@H](C(CC1)CC2)OC([C@@H](CC2=CC=CC=C2)NC2=CC=CC=C2)=O)C2=CC=CC=C2 | InChI=1S/C30H33N2O3.BrH/c33-28(24-12-6-2-7-13-24)21-32-18-16-25(17-19-32)29(22-32)35-30(34)27(20-23-10-4-1-5-11-23)31-26-14-8-3-9-15-26;/h1-15,25,27,29,31H,16-22H2;1H/q+1;/p-1/t25?,27-,29+,32?;/m1./s1
